US03954757
A solution of 28.98 g of indole-2-carboxylic acid in 300 ml of methanol is added to a well-stirred solution of 90 g of potassium iodide and 45.6 g of iodine in 270 ml of water at room temperature. This mixture is further treated with a solution of 23.4 g of 1-methyl-1,4,5,6-tetrahydro-2-pyrimidinethiol in 420 ml of warm methanol. The reaction mixture is stirred for 2 hours at room temperature and worked up in the manner described unter Example 1 to yield 3-(1-methyl-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide which melts at 230°-231° after recrystallization from a mixture of methanol, ethyl acetate and ether.

reactant | indole-2-carboxylic acid | 28.98 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | potassium iodide | 90 g | [I-].[K+]
reactant | iodine | 45.6 g | II | I2
reactant | 1-methyl-1,4,5,6-tetrahydro-2-pyrimidinethiol | 23.4 g | CN1C(=NCCC1)S | C5H10N2S
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 270 ml | O | H2O
solvent | methanol | 420 ml | CO | CH4O
product | 3-(1-methyl-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole-2-carboxylic acid hydriodide | I.CN1C(=NCCC1)SC1=C(NC2=CC=CC=C12)C(=O)O | InChI=1S/C14H15N3O2S.HI/c1-17-8-4-7-15-14(17)20-12-9-5-2-3-6-10(9)16-11(12)13(18)19;/h2-3,5-6,16H,4,7-8H2,1H3,(H,18,19);1H
